US08222416B2
To a solution of 1-(1-benzenesulfonyl-5-methoxymethyl-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanol (710 mg, 1.71 mmol) in dichloromethane (50 mL) was added Dess-Martin periodinane (1.8 g, 4.2 mmol) at 25° C. The reaction mixture was stirred at 25° C. for 1 h and then quenched with a saturated aqueous sodium bicarbonate solution (60 mL). The mixture was extracted with ethyl acetate (250 mL), washed with a saturated aqueous sodium bicarbonate solution (3×50 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to give 1-(1-benzenesulfonyl-5-methoxymethyl-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanone (704 mg, quant.) as a light yellow solid which was used in the next step without further purification: LC/MS m/e calcd for C22H24N2O4S [M+H]+ 413.51, observed 413.2.

reactant | 1-(1-benzenesulfonyl-5-methoxymethyl-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanol | 1.71 mmol, 710 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)COC)C(CC2CCCC2)O | C22H26N2O4S
reactant | Dess-Martin periodinane | 4.2 mmol, 1.8 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(1-benzenesulfonyl-5-methoxymethyl-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanone | 704 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)COC)C(CC2CCCC2)=O | C22H24N2O4S
